US07807709B2
N-(2-Hydroxy-1,1-dimethyl-ethyl)-acetamide
A mixture of 2-amino-2-methyl-propan-1-ol (2.0 mL, 20.4 mmol), acetanhydride (1.9 mL, 20.4 mmol) and NaHCO3 (2.6 g, 30.6 mmol) in H2O (20 mL) is stirred at RT for 16 h. For workup 1N HCl is added and the mixture is extracted with ethyl acetate. Drying (Na2SO4) of the combined extracts, filtration and evaporation of the solvent yields the title compound as a colorless solid. MS (LC-MS): [M+H]+=132.2. tR (HPLC, Waters Symmetry C18 column, 20-95% CH3CN/H2O/3.5 min, 95% CH3CN/H2O, 2 min, CH3CN and H2O containing 0.1% TFA, flow: 0.6 mL/min): 0.38 min.

reactant | 2-amino-2-methyl-propan-1-ol | 20.4 mmol, 2.0 mL | NC(CO)(C)C | C4H11NO
reactant | acetanhydride | 20.4 mmol, 1.9 mL | CC(=O)OC(=O)C | C4H6O3
reactant | NaHCO3 | 30.6 mmol, 2.6 g | C(=O)(O)[O-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | H2O | 20 mL | O | H2O
product | N-(2-Hydroxy-1,1-dimethyl-ethyl)-acetamide | OCC(C)(C)NC(C)=O | C6H13NO2
